US08012966B2
A stirred solution of 3-oxo-butyric acid tert-butyl ester (32 g, 0.2 mol) in glacial acetic acid was added dropwise with an aqueous solution of sodium nitrite (13.8 g, 0.2 mol sodium nitrite in 20 ml of water) while maintaining the temperature at 0˜5° C. Upon completion of the addition, the reaction mixture was stirred in an ice-water bath for 1 hour and at room temperature for another 3 hours. The solution of 2-hydroxyimino-3-oxo-butyric acid tert-butyl ester was obtained which was used as such. A mixture of 3-oxo-glutaric acid diethyl ester (40 g, 0.2 mol) in 90 ml of glacial acetic acid was added with the above solution of 2-hydroxyimino-3-oxo-butyric acid tert-butyl ester and zinc dust (26 g, 0.4 mol) alternatively at a rate to maintain the reaction temperature below 65° C. Upon completion of the addition, the mixture was stirred at 75° C. for 2 hours, added with cold water (100 ml), and the mixture was stirred at room temperature for 1 hour. The zinc dust was removed by filtration and the filtrate was extracted with ethyl acetate (100 ml×3). The combined organic extracts were washed with water (100 ml×3), saturated sodium bicarbonate solution (100 ml×4), and brine (100 ml), dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 5-ethoxycarbonylmethyl-3-methyl-1H-pyrrole-2,4-dicarboxylic acid 2-tert-butyl ester 4-ethyl ester (60 g, 88.5%) as a yellow oil.

reactant | 3-oxo-glutaric acid diethyl ester | 0.2 mol, 40 g | C(C)OC(CC(CC(=O)OCC)=O)=O | C9H14O5
reactant | 2-hydroxyimino-3-oxo-butyric acid tert-butyl ester | C(C)(C)(C)OC(C(C(C)=O)=NO)=O | C8H13NO4
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 0.4 mol, 26 g | [Zn] | Zn
product | 5-ethoxycarbonylmethyl-3-methyl-1H-pyrrole-2,4-dicarboxylic acid 2-tert-butyl ester 4-ethyl ester | 60 g, 88.5% | C(C)OC(=O)C=1C(=C(NC1CC(=O)OCC)C(=O)OC(C)(C)C)C | C17H25NO6
